US08912186B2
Neat 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonic acid (0.3 g) was heated to 160° C. with stirring for 1 h. After cooling to rt the crude was dissolved in acetone/methanol. Precipitation of product was effected by addition of dichloromethane. The precipitate was collected to afford 5-(4-chlorophenyl)-5-oxo-3-phenylpentanoic acid (0.19 g) as colourless crystals.

reactant | 2-[3-(4-chlorophenyl)-3-oxo-1-phenylpropyl]malonic acid | 0.3 g | ClC1=CC=C(C=C1)C(CC(C1=CC=CC=C1)C(C(=O)O)C(=O)O)=O | C18H15ClO5
solvent | acetone methanol | CC(=O)C.CO
product | 5-(4-chlorophenyl)-5-oxo-3-phenylpentanoic acid | 0.19 g | ClC1=CC=C(C=C1)C(CC(CC(=O)O)C1=CC=CC=C1)=O | C17H15ClO3
